US07858640B2
[8-chloro-3-(2-chloro-4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of (3-amino-4-chlorophenoxy)acetic acid methyl ester (0.35 g), 3-(2-chloro-4-methanesulfonylbenzyl)pentane-2,4-dione (0.5 g) and polyphosphoric acid (5.0 g) was heated at 100° C. for 3.5 hours. The mixture was cooled to room temperature, diluted with water and extracted with ethyl acetate. The combined extracts were washed with water and saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography on silica gel, eluting with a mixture of ethyl acetate and cyclohexane (2:8 to 3:7 by volume) to afford title compound as a pale yellow waxy solid, 0.36 g.

reactant | (3-amino-4-chlorophenoxy)acetic acid methyl ester | 0.35 g | COC(COC1=CC(=C(C=C1)Cl)N)=O | C9H10ClNO3
reactant | 3-(2-chloro-4-methanesulfonylbenzyl)pentane-2,4-dione | 0.5 g | ClC1=C(CC(C(C)=O)C(C)=O)C=CC(=C1)S(=O)(=O)C | C13H15ClO4S
solvent | water | O | H2O
product | [8-chloro-3-(2-chloro-4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)CC1=C(C=C(C=C1)S(=O)(=O)C)Cl)C)=O | C22H21Cl2NO5S
